US08633200B2
To a stirred solution of methyl 2-(2-(3-chlorophenyl)-5-methyl-7-(p-tolyl)pyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (0.103 g, 0.123 mmol) and 1M (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole/toluene (0.025 ml, 0.025 mmol) in toluene (5 mL) at −35 C was added dropwise 1M catecholoborane/THF (0.245 ml, 0.245 mmol) over 5 min. After 30 min, the reaction mixture was warmed to −15° C., diluted with EtOAc (10 ml) and quenched with sat. Na2CO3 (5 mL). The resulting mixture was vigorously stirred for 30 min, aqueous layer removed and organic layer washed with sat. Na2CO3 (2×5 mL), dried (Na2SO4), filtered, concentrated to yellow residue which was purified by prep-HPLC to afford (S)-methyl 2-(2-(3-chlorophenyl)-5-methyl-7-(p-tolyl)pyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate as white solid. To a stirred solution above solid (18 mg) in CH2Cl2 (3 mL) and tert-BuOAc (1 mL) was added 70% perchloric acid (0.025 mL) at rt and sealed for 1.5 h. Then, the reaction was diluted with Et2O (25 mL), washed with sat. Na2CO3 (2×5 mL), dried (Na2SO4), filtered and concentrated to give yellow solid which was purified by prep-HPLC to afford (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-5-methyl-7-(p-tolyl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate (0.01 g, 0.021 mmol, 17.06% yield) as pale yellow solid. 1H NMR (500 MHz, CDCl3) δ 7.86-7.83 (m, 1H), 7.73 (dt, J=6.6, 1.7 Hz, 1H), 7.62 (d, J=7.9 Hz, 1H), 7.50 (d, J=7.6 Hz, 1H), 7.40 (dd, J=12.5, 7.9 Hz, 2H), 7.32-7.27 (m, 2H), 6.86 (s, 1H), 5.14 (s, 1H), 3.80 (s, 3H), 2.65 (s, 3H), 2.51 (s, 3H), 0.95 (s, 9H). LCMS (M+H) calcd for C27H29ClN3O3: 478.19. found: 480.3.

reactant | methyl 2-(2-(3-chlorophenyl)-5-methyl-7-(p-tolyl)pyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 0.123 mmol, 0.103 g | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2C2=CC=C(C=C2)C)C(C(=O)OC)=O)C)=C1 | C23H18ClN3O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole toluene | 0.025 mmol, 1M, 0.025 ml | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2.C1(=CC=CC=C1)C
reactant | THF | 0.245 mmol, 0.245 ml | C1CCOC1 | C4H8O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | (S)-methyl 2-(2-(3-chlorophenyl)-5-methyl-7-(p-tolyl)pyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2C2=CC=C(C=C2)C)[C@@H](C(=O)OC)O)C)=C1 | C23H20ClN3O3
